US08530482B2
1.0 g (4.04 mmol) of N-(5-acetyl-2-chloro-phenyl)-methanesulfonamide were dissolved in 10 ml of dry N,N-dimethylformamide and 2.69 ml (2.41 g) (20.19 mmol) of N,N-dimethylformamide dimethylacetal. The resultant solution was refluxed for 2 hours. The solvent and the excess of volatile reagent was removed by reduced pressure distillation to yield an oil which, in the presence of ethyl acetate, gave 1.04 of a crude. It was chromatographied (silica gel) using ethyl acetate/2-propanol as eluent. 0.51 g of N-[2-chloro-5-(3-dimethylamino-acryloyl)-phenyl]-N-methyl-methanesulfonamide as a yellowish-white solid were obtained (yield 40%).

reactant | N-(5-acetyl-2-chloro-phenyl)-methanesulfonamide | 4.04 mmol, 1.0 g | C(C)(=O)C=1C=CC(=C(C1)NS(=O)(=O)C)Cl | C9H10ClNO3S
reactant | N,N-dimethylformamide dimethylacetal | 20.19 mmol, 2.69 ml, 2.41 g | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate 2-propanol | C(C)(=O)OCC.CC(C)O
product | N-[2-chloro-5-(3-dimethylamino-acryloyl)-phenyl]-N-methyl-methanesulfonamide | 0.51 g, yield 40% | ClC1=C(C=C(C=C1)C(C=CN(C)C)=O)N(S(=O)(=O)C)C | C13H17ClN2O3S
